US03948913
To a mixture of 5.0 grams of 1-methyl-3-(5-nitro-2-furyl)-1H-pyrazolo[3,4-d]pyrimidin-4(5H)one and 100 milliliters of phosphorus oxychloride was slowly added 48 grams of N,N-dimethylaniline. The mixture was heated under reflux for 2 hours, cooled and carefully added to 1 kilogram of crushed ice. The crystalline product was collected, washed with ether and dried. Recrystallisation from ethyl acetate gave 4-chloro-1-methyl-3-(5-nitro-2-furyl)-1H-pyrazolo[3,4-d]pyrimidine having melting point 195°C.

reactant | 1-methyl-3-(5-nitro-2-furyl)-1H-pyrazolo[3,4-d]pyrimidin-4(5H)one | 5.0 grams | CN1N=C(C2=C1N=CNC2=O)C=2OC(=CC2)[N+](=O)[O-] | C10H7N5O4
reactant | N,N-dimethylaniline | 48 grams | CN(C1=CC=CC=C1)C | C8H11N
reactant | phosphorus oxychloride | 100 milliliters | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-1-methyl-3-(5-nitro-2-furyl)-1H-pyrazolo[3,4-d]pyrimidine | ClC1=C2C(=NC=N1)N(N=C2C=2OC(=CC2)[N+](=O)[O-])C | C10H6ClN5O3
